US08466168B2
1.v. 6-((S)-3-chloro-2-hydroxy-propylamino)-4H-benzo[1,4]thiazin-3-one
A suspension of 6-amino-4H-benzo[1,4]thiazin-3-one (18.0 g, 100 mmol; commercial) and Ca(OTf)2 (0.5 eq.) in MeCN (800 mL) was heated at 50° for 1 h. (S)-epichlorohydrin (18.5 g, 200 mmol) was added and the mixture was stirred at rt for 72 h and at 45° C. for 24 h. The volatiles were removed under reduced pressure. After aqueous workup and extraction with EA, the title intermediate crystallized from EA to afford a beige solid (17.38 g, 64% yield).

reactant | 6-amino-4H-benzo[1,4]thiazin-3-one | 100 mmol, 18.0 g | NC=1C=CC2=C(NC(CS2)=O)C1 | C8H8N2OS
reactant | (S)-epichlorohydrin | 200 mmol, 18.5 g | C(Cl)[C@@H]1CO1 | C3H5ClO
solvent | MeCN | 800 mL | CC#N | C2H3N
product | 6-((S)-3-chloro-2-hydroxy-propylamino)-4H-benzo[1,4]thiazin-3-one | 17.38 g, 64% yield | ClC[C@H](CNC=1C=CC2=C(NC(CS2)=O)C1)O | C11H13ClN2O2S
